US07550629B2
J. (2S)-2-(4-Chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoro-ethyl)-pentanoic acid methyl ester
To a solution of (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)pentanoic acid methyl ester (2.173 g, 8.14 mmol) and pyridine (1.97 mL, 24.4 mmol) in CH2Cl2 (15 mL) was added a solution of 4-chlorobenzenesulfonyl chloride (2.66 g, 12.2 mmol, 97% pure) in CH2Cl2 (7 mL). The reaction mixture was stirred at 25° C. for 4 h, then cooled to 0° C. 15 mL of 1N HCl was added followed by 10 mL of dichloromethane. The phases were separated. The organic phase was washed with 1N HCl (15 mL) and brine, dried over Na2SO4, and concentrated to afford 4.1 g of crude mixture as a yellow solid. The solids were recrystallized from heptane (14 mL) to afford 3.035 g of the title product (84% yield). Mass Spectrum (+ESI): 442 [M+H]+.

reactant | (2S)-2-amino-5,5,5-trifluoro-3-(2,2,2-trifluoroethyl)pentanoic acid methyl ester | 8.14 mmol, 2.173 g | COC([C@H](C(CC(F)(F)F)CC(F)(F)F)N)=O | C8H11F6NO2
reactant | pyridine | 24.4 mmol, 1.97 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorobenzenesulfonyl chloride | 12.2 mmol, 2.66 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | HCl | 1N, 15 mL | Cl | ClH
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2S)-2-(4-Chloro-benzenesulfonylamino)-5,5,5-trifluoro-3-(2,2,2-trifluoro-ethyl)-pentanoic acid methyl ester | 3.035 g, 84% yield | COC([C@H](C(CC(F)(F)F)CC(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C14H14ClF6NO4S
